US05516788
cis-4b,5,9b,10-Tetrahydro-10,10-dimethylindeno[1,2-b]indole
5,10-Dihydro-10,10-dimethylindeno [1,2-b]indole (1.00 g, 4.29 mmol) was reacted with sodium cyanoborohydride (1.0 g, 16 mmol) in glacial acetic acid (20 cm3), for 10 minutes. The solution was poured into water, stirred for 30 minutes, and extracted into diethylether. The organic phase was washed 10 times with water, dried (Na2SO4), and the solvent removed in vacuo. The residue was dissolved in 5% ethylacetate/petrol (60°-80° C.) and filtered through a pad of "flash" silica, yielding, on removal of solvent, a gum which solidified on the oil pump, to give the title compound as a colourless solid. Yield: 0.98 g, (98%) M.p. 57°-59° C. 1H NMR (CDCl3) δ: 1.17 (3H, s,), 1.43 (3H, s,), 3.86 (1H, d,), 3.9 (1H, br,), 5.29 (1H, d,), 6.59 (1H, d,), 6.71 (1H, ddd,), 7.02 (1H, ddd,), 7.2-7.3 (5H, m,).

reactant | 5,10-Dihydro-10,10-dimethylindeno [1,2-b]indole | 4.29 mmol, 1.00 g | CC1(C2=CC=CC=C2C=2NC=3C=CC=CC3C21)C | C17H15N
reactant | sodium cyanoborohydride | 16 mmol, 1.0 g | C(#N)[BH3-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | 20 cm3 | C(C)(=O)O | C2H4O2
product | cis-4b,5,9b,10-Tetrahydro-10,10-dimethylindeno[1,2-b]indole | CC1(C2=CC=CC=C2[C@H]2NC=3C=CC=CC3[C@H]21)C | C17H17N
